US06586421B2
(5aS*,10bS*)-10-(2-Propoxyphenyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole
A 0° C. solution of 10-(2-propoxyphenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole (257 mg, 0.80 mmol) in trifluoroacetic acid (4 mL) was treated with a solution of sodium cyanoborohydride (269 mg 4.28 mmol) in methanol (2 mL). The reaction was allowed to slowly warm to room temperature over 1.6 hours then diluted with water and concentrated in vacuo to remove the majority of acid. The residue was made basic with 15% NaOH, extracted twice with CH2Cl2 dried over MgSO4 and concentrated in vacuo and passed through a column of silica gel with 1:19 methanol/chloroform with 1% NH4OH to give 104 mg (40%) of a brown oil as the title compound: 1H NMR (400 MHz, CDCl3) δ 7.32-7.30 (m, 1H), 7.25 (dd, J=7.4 Hz, 1.7 Hz, 1H), 7.11-7.07 (m, 1H), 7.02-6.96 (m, 2H), 6.65-6.59 (m, 1H), 4.24-4.21 (m, 1H), 3.97-3.84 (m, 2H), 3.73 (dt, J=9.7 Hz, 3.3 Hz, 1H), 3.13-3.08 (m, 1H), 2.80-2.76 (m, 1H), 2.73-2.67 (m, 1H), 2.47-2.41 (m, 1H), 2.06-2.04 (m, 1H), 1.95-1.92 (m, 1H), 1.75-1.70 (m, 2H), 1.59-1.55 (m, 1H), 1.37-1.34 (m, 1H) 0.95 (t, J=7.4 Hz, 3 H); HRMS (FAB) calcd for C21H26N2O+H1: 323.2123 found 323.2116.

reactant | 10-(2-propoxyphenyl)-1,2,3,4,5,6-hexahydroazepino[4,5-b]indole | 0.80 mmol, 257 mg | C(CC)OC1=C(C=CC=C1)C=1C=2C3=C(NC2C=CC1)CCNCC3 | C21H24N2O
reactant | sodium cyanoborohydride | 4.28 mmol, 269 mg | C(#N)[BH3-].[Na+]
solvent | trifluoroacetic acid | 4 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | 2 mL | CO | CH4O
solvent | water | O | H2O
product | (5aS*,10bS*)-10-(2-Propoxyphenyl)-1,2,3,4,5,5a,6,10b-octahydroazepino[4,5-b]indole | 104 mg, 40% | C(CC)OC1=C(C=CC=C1)C=1C=2[C@H]3[C@@H](NC2C=CC1)CCNCC3 | C21H26N2O
